US06410562B1
Step B: 5-Chloro-2-(2-chlorophenyl)benzo[b]thiophene (X=Cl, Y=2-Cl)
To a solution of 1.03 g (4.16 mmol) 2-bromo-5-chlorobenzothiophene in 12 ml DME under argon were added 1.0 g (6.4 mmol) 2-chlorobenzeneboronic acid, 88 mg Pd(PPh3)4, and 6.4 ml 1M aqueous sodium carbonate solution, and the mixture was heated overnight at 100° C. in a sealed tube. After cooling 20 ml water and 20 ml ethyl acetate were added followed by vigorous stirring. The organic layer was dried over sodium sulfate and concentrated in vacuo, and the title compound was purified by chromatography on silica gel with hexane/ethyl acetate 97:3 to give 1.1 g (95%) of a colorless oil, which slowly solidified; MS 278 (M+).

reactant | 2-bromo-5-chlorobenzothiophene | 4.16 mmol, 1.03 g | BrC=1SC2=C(C1)C=C(C=C2)Cl | C8H4BrClS
reactant | 2-chlorobenzeneboronic acid | 6.4 mmol, 1.0 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1M, 6.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | DME | 12 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 88 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-(2-chlorophenyl)benzo[b]thiophene | 1.1 g, 95% | ClC1=CC2=C(SC(=C2)C2=C(C=CC=C2)Cl)C=C1 | C14H8Cl2S
